US06720321B2
Diazomethane in ether was generated by adding portionwise N-nitroso-N-methyl urea to a biphasic mixture of ether (100 mL) and 2.5 M KOH in water (150 mL). The ether layer was transferred by pipette to a solution of 3-chlorocinnamic acid (1.00 g, 5.48 mmol, 1 equiv.) and palladium(II) acetate (6 mg, 0.028 mmol, 0.005 equiv.) in dichloromethane: ether (1:2, 150 mL) at 0° C. The addition was continued until a persistent yellow color remained in the solution. Stirring was continued for 2.5 h at 0° C., then approximately 3 mL acetic acid were added and the mixture was left standing at room temperature overnight. The resulting mixture was washed twice with saturated aqueous NaHCO3 solution and once with brine. It was then dried (MgSO4), filtered, and the solvent was removed in vacuo. The crude trans-2-(3-chlorophenyl)-cyclopropanecarboxylic acid methyl ester (1.09 g, 5.17 mmol, 94%) was obtained as a yellow oil.

reactant | Diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-nitroso-N-methyl urea | N(=O)N(C(=O)N)C | C2H5N3O2
reactant | KOH | 2.5 M | [OH-].[K+]
reactant | 3-chlorocinnamic acid | 5.48 mmol, 1.00 g, 1 equiv. | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
solvent | ether | CCOCC | C4H10O
solvent | water | 150 mL | O | H2O
solvent | dichloromethane ether | 150 mL | ClCCl.CCOCC
catalyst | palladium(II) acetate | 0.028 mmol, 6 mg, 0.005 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | acetic acid | approximately 3 mL | C(C)(=O)O | C2H4O2
product | trans-2-(3-chlorophenyl)-cyclopropanecarboxylic acid methyl ester | 5.17 mmol, 1.09 g, 94% | COC(=O)[C@H]1[C@@H](C1)C1=CC(=CC=C1)Cl | C11H11ClO2
